US07612114B2
4-(2-Dimethylamino-2-methylpropoxy)-3-fluorobenzaldehyde
Synthesized from 4-(2-amino-2-methylpropoxy)-3-fluorobenzonitrile according to an analogous synthetic method to Preparation Example 18, 4-(2-dimethylamino-2-methylpropoxy)-3-fluorobenzonitrile (1.4 g) was used according to an analogous synthetic method to Preparation Example 16 to provide the title compound (965 mg).

reactant | 4-(2-amino-2-methylpropoxy)-3-fluorobenzonitrile | NC(COC1=C(C=C(C#N)C=C1)F)(C)C | C11H13FN2O
reactant | 4-(2-dimethylamino-2-methylpropoxy)-3-fluorobenzonitrile | 1.4 g | CN(C(COC1=C(C=C(C#N)C=C1)F)(C)C)C | C13H17FN2O
product | 4-(2-Dimethylamino-2-methylpropoxy)-3-fluorobenzaldehyde | 965 mg | CN(C(COC1=C(C=C(C=O)C=C1)F)(C)C)C | C13H18FNO2
